US04087551
10-Bornanamine (824mg) in toluene (20ml) was treated with benzaldehyde (0.55ml) and the solution refluxed under nitrogen under a Dean and Stark water trap for four days. Evaporation of the solvent in vacuo afforded impure 10-benzylidene-10-bornanamine which was dissolved in dimethoxyethane (10ml) containing lithium aluminium hydride (112mg.). The resulting mixture was refluxed for 2.25 hours, cooled, and the excess hydride decomposed by the addition of water. The precipitated inorganic material was removed by filtration and the solvent was evaporated in vacuo. The residual gum was triturated with 2N-hydrochloric acid to afford an insoluble hydrochloride which was collected by filtration and then partitioned between ether and 2N-sodium hydroxide. The dried ethereal layer was evaporated in vacuo to give a yellow oil which was dissolved in ether and treated with ethanolic hydrogen chloride. The precipitated solid was collected and recrystallized from water to give title compound m.p. 310° (Found: C, 72.65; H, 9.65; Cl, 13.3; N, 4.95. C17H26ClN requires C, 72.95; H, 9.35; Cl, 12.65; N, 5.0%).

reactant | 10-Bornanamine | 824mg | C12(CCC(CC1)C2(C)C)CN | C10H19N
reactant | benzaldehyde | 0.55ml | C(C1=CC=CC=C1)=O | C7H6O
reactant | water | O | H2O
solvent | toluene | 20ml | C1(=CC=CC=C1)C | C7H8
product | 10-benzylidene-10-bornanamine | C(C1=CC=CC=C1)=C(C12CCC(CC1)C2(C)C)N | C17H23N
